US06086905
Preparation of 1-Dodecanoyl-1,3-dimethylurea
To a solution of 1,3-dimethylurea in toluene with an appropriate base (e.g., triethylamine) is added an equimolar amount of lauroyl chloride. This is stirred overnight, filtered and concentrated to give the above product.

reactant | 1,3-dimethylurea | CNC(=O)NC | C3H8N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Dodecanoyl-1,3-dimethylurea | C(CCCCCCCCCCC)(=O)N(C(=O)NC)C | C15H30N2O2
